**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  THT High Current Inductor
* Matchcode:              WE-HIDA 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-02-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1415_7444211415082_8.2u 1 2 3 4
L1 1 N1 7.433u
Rdc1 N1 4 9.2m
Cp1 1 4 8.399p
Rp1 1 4 2314
L2 2 N2 7.433u
Rdc2  N2 3 9.2m
Cp2 2 3 8.399p
Rp2 2 3 2314
Rg1 1 0 500meg
Rg2 2 0 500meg
Rg3 3 0 500meg
Rg4 4 0 500meg
.ends
*******
.subckt 1415_7444211415100_10u 1 2 3 4
L1 1 N1 9.038u
Rdc1 N1 4 9.2m
Cp1 1 4 9.155p
Rp1 1 4 2396
L2 2 N2 9.038u
Rdc2  N2 3 9.2m
Cp2 2 3 9.155p
Rp2 2 3 2396
Rg1 1 0 500meg
Rg2 2 0 500meg
Rg3 3 0 500meg
Rg4 4 0 500meg
.ends
*******
.subckt 1415_7444211415150_15u 1 2 3 4
L1 1 N1 13.628u
Rdc1 N1 4 14.6m
Cp1 1 4 11.718p
Rp1 1 4 2908
L2 2 N2 13.628u
Rdc2  N2 3 14.6m
Cp2 2 3 11.718p
Rp2 2 3 2908
Rg1 1 0 500meg
Rg2 2 0 500meg
Rg3 3 0 500meg
Rg4 4 0 500meg
.ends
*******
.subckt 1415_7444211415220_22u 1 2 3 4
L1 1 N1 19.457u
Rdc1 N1 4 14.8m
Cp1 1 4 11.402p
Rp1 1 4 3381
L2 2 N2 19.457u
Rdc2  N2 3 14.8m
Cp2 2 3 11.402p
Rp2 2 3 3381
Rg1 1 0 500meg
Rg2 2 0 500meg
Rg3 3 0 500meg
Rg4 4 0 500meg
.ends
*******
.subckt 1521_74441521082_8.2u 1 2 3 4
L1 1 N1 7.498u
Rdc1 N1 4 6.2m
Cp1 1 4 7.178p
Rp1 1 4 2854
L2 2 N2 7.498u
Rdc2  N2 3 6.2m
Cp2 2 3 7.178p
Rp2 2 3 2854
Rg1 1 0 500meg
Rg2 2 0 500meg
Rg3 3 0 500meg
Rg4 4 0 500meg
.ends
*******
.subckt 1521_74441521100_10u 1 2 3 4
L1 1 N1 9.098u
Rdc1 N1 4 6.3m
Cp1 1 4 7.474p
Rp1 1 4 2870
L2 2 N2 9.098u
Rdc2  N2 3 6.3m
Cp2 2 3 7.474p
Rp2 2 3 2870
Rg1 1 0 500meg
Rg2 2 0 500meg
Rg3 3 0 500meg
Rg4 4 0 500meg
.ends
*******
.subckt 1521_74441521150_15u 1 2 3 4
L1 1 N1 14.504u
Rdc1 N1 4 8.5m
Cp1 1 4 7.06p
Rp1 1 4 3720
L2 2 N2 14.504u
Rdc2  N2 3 8.5m
Cp2 2 3 7.06p
Rp2 2 3 3720
Rg1 1 0 500meg
Rg2 2 0 500meg
Rg3 3 0 500meg
Rg4 4 0 500meg
.ends
*******
.subckt 1521_74441521220_22u 1 2 3 4
L1 1 N1 21.78u
Rdc1 N1 4 13.6m
Cp1 1 4 7.729p
Rp1 1 4 5558
L2 2 N2 21.78u
Rdc2  N2 3 13.6m
Cp2 2 3 7.729p
Rp2 2 3 5558
Rg1 1 0 500meg
Rg2 2 0 500meg
Rg3 3 0 500meg
Rg4 4 0 500meg
.ends
